US09290490B2
To a solution of 1-(trans-4-aminocyclohexyl)-1-(1,3-thiazol-2-yl)ethanol (100 mg, 0.44 mmol) in dichlormethane (2.9 mL) and triethylamine (0.31 mL, 2.21 mmol) at 0° C. was added methanesulfonyl chloride (34 μL, 0.44 mmol) and the reaction was allowed to stir for 10 minutes at 0° C. and then diluted with water, dichloromethane and aqueous saturated sodium bicarbonate. The organic layer was separated, dried over magnesium sulfate, filtered and concentrated in vacuo. The residue was purified by column chromatography on silica gel (0-100% ethyl acetate gradient in hexanes) to afford N-{trans-4-[1-hydroxy-1-(1,3-thiazol-2-yl)ethyl]cyclohexyl}methanesulfonamide. MS ESI calc'd. for C12H21N2O3S2 [M+H]+ 305. found 305. 1H NMR (500 MHz, CDCl3) δ 7.70 (d, J=3.2, 1H), 7.28 (d, J=3.2, 1H), 4.25-4.14 (m, 1H), 3.30-3.13 (m, 1H), 2.95 (s, 3H), 2.18-2.09 (m, 1H), 2.09-2.02 (m, 2H), 1.96-1.88 (m, 1H), 1.80-1.69 (m, 1H), 1.64-1.53 (m, 3H), 1.40-1.28 (m, 1H), 1.28-1.13 (m, 3H).

reactant | 1-(trans-4-aminocyclohexyl)-1-(1,3-thiazol-2-yl)ethanol | 0.44 mmol, 100 mg | N[C@@H]1CC[C@H](CC1)C(C)(O)C=1SC=CN1 | C11H18N2OS
reactant | triethylamine | 2.21 mmol, 0.31 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.44 mmol, 34 μL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichlormethane | 2.9 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | N-{trans-4-[1-hydroxy-1-(1,3-thiazol-2-yl)ethyl]cyclohexyl}methanesulfonamide | OC(C)(C=1SC=CN1)[C@@H]1CC[C@H](CC1)NS(=O)(=O)C | C12H20N2O3S2
